US07825256B2
2-[{3-[(Benzo[1,3]dioxol-5-ylmethyl)-amino]-propyl}-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-amino]-N,N-dimethyl-acetamide was prepared following the procedures described in the preparation of Example 56 using [[3-(benzo[1,3]dioxol-5-ylmethyl-tert-butoxycarbonyl-amino)-propyl]-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-amino]-acetic acid and Me2NH. [M+H]+ 443.99; 1H NMR (400 MHz, d6-DMSO) δ 8.34 (s, 1H), 7.75 (s, 1H), 7.12 (s, 1H), 6.99 (s, 1H), 6.87 (m, 2H), 6.03 (s, 2H), 4.51 (br s, 1H), 3.78 (br s, 2H), 3.38 (br s, 2H), 3.05 (s, 3H), 2.89 (s, 3H), 2.75 (m, 2H), 2.53 (m, 2H), 1.89 (m, 2H).

reactant | [[3-(benzo[1,3]dioxol-5-ylmethyl-tert-butoxycarbonyl-amino)-propyl]-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-amino]-acetic acid | O1COC2=C1C=CC(=C2)CN(CCCN(C2=NC(=NS2)N2C=NC=C2)CC(=O)O)C(=O)OC(C)(C)C | C23H28N6O6S
reactant | Me2NH | N(C)C | C2H7N
product | 2-[{3-[(Benzo[1,3]dioxol-5-ylmethyl)-amino]-propyl}-(3-imidazol-1-yl-[1,2,4]thiadiazol-5-yl)-amino]-N,N-dimethyl-acetamide | O1COC2=C1C=CC(=C2)CNCCCN(CC(=O)N(C)C)C2=NC(=NS2)N2C=NC=C2 | C20H25N7O3S
